US04322429
2,6-DIMETHOXY-N-(4-(4-(TRIFLUOROMETHYL)PHENYL)-5-ISOXAZOLYL)BENZAMIDE
4-(4-(Trifluoromethyl)phenyl)-5-aminoisoxazole (1.0 g) and 2,6-dimethoxybenzoylchloride (2 g) were refluxed in 100 ml. toluene for 3 hours. The reaction mixture was cooled and the final product was then collected and recrystallized from ethanol, m.p. 199°-201° C.

reactant | 4-(4-(Trifluoromethyl)phenyl)-5-aminoisoxazole | 1.0 g | FC(C1=CC=C(C=C1)C=1C=NOC1N)(F)F | C10H7F3N2O
reactant | 2,6-dimethoxybenzoylchloride | 2 g | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,6-DIMETHOXY-N-(4-(4-(TRIFLUOROMETHYL)PHENYL)-5-ISOXAZOLYL)BENZAMIDE | COC1=C(C(=O)NC2=C(C=NO2)C2=CC=C(C=C2)C(F)(F)F)C(=CC=C1)OC | C19H15F3N2O4
